US03957805
Preparation of 1-Cyclopropyl-3-(4-pyrimidinyl)-1,3-propanedione
A stirred mixture of 1.4 g. of methyl-4-pyrimidinecarboxylate, 1.7 g. of cyclopropylmethyl ketone, 1.2 g. of sodium methoxide and 40 ml. of benzene is heated under reflux for 4 hours. The mixture is diluted with 40 ml. of water and the benzene phase is removed. The aqueous mixture is made weakly acidic with dilute hydrochloric acid and extracted with chloroform. The cloroform solution is dried over magnesium sulfate and concentrated under reduced pressure to give light brown crystals, which are recrystallized from hexane to provide straw-colored crystals, melting point 81°-84°C.

reactant | methyl-4-pyrimidinecarboxylate | COC(=O)C1=NC=NC=C1 | C6H6N2O2
reactant | cyclopropylmethyl ketone | C1(CC1)C(=O)C | C5H8O
reactant | sodium methoxide | C[O-].[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-Cyclopropyl-3-(4-pyrimidinyl)-1,3-propanedione | C1(CC1)C(CC(=O)C1=NC=NC=C1)=O | C10H10N2O2
